US06600037B1
4-[4-(1-Amino-1-methylethyl)phenyl]-5-chloro-N-[3-(2-hydroxyethyl)phenyl]pyrimidine-2-amine
The title compound was prepared from 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine (1.50 g, 6.55 mmol) and 2-(3-aminophenyl)ethanol (942 mg, 6.87 mmol) following the method of Example 1. The crude product was purified by chromatography (Silica, 10% methanol in CH2Cl2) to give the title compound as a brown solid (600 mg) m.p. 184-185°. δH (d6DMSO) 9.77 (1H, s), 8.57 (1H, s), 7.79 (2H, d, J 8.4 Hz), 7.68 (2H, d, J 8.4 Hz), 7.61-7.58 (2H, m), 7.17 (1H, t, J 7.7 Hz), 6.82 (1H, d, J 7.4 Hz), 4.62 (1H, bs), 3.60 (2H, t, J 7.0 Hz), 2.68 (2H, t, J 7.1 Hz), 2.07 (2H, bs), 1.41 (6H, s); MS (ESI) 383 (MH+, 35Cl).

reactant | 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine | 6.55 mmol, 1.50 g | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1Cl)Cl | C18H21Cl2N3O2
reactant | 2-(3-aminophenyl)ethanol | 6.87 mmol, 942 mg | NC=1C=C(C=CC1)CCO | C8H11NO
product | 4-[4-(1-Amino-1-methylethyl)phenyl]-5-chloro-N-[3-(2-hydroxyethyl)phenyl]pyrimidine-2-amine | 600 mg | NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1Cl)NC1=CC(=CC=C1)CCO | C21H23ClN4O
